US03989707
76 parts of ethyl 1-(methoxycarbonyl)-2-methyl-4-oxo-3-piperidinecarboxylate are hydrolyzed with 600 parts of ethanedioic acid solution 14% in water and the whole is stirred and refluxed for 40 hours. The product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is distilled, yielding methyl 2-methyl-4-oxo-1-piperidinecarboxylate; bp. 96°-99° C. at 0.2-9.3 mm. pressure.

reactant | ethyl 1-(methoxycarbonyl)-2-methyl-4-oxo-3-piperidinecarboxylate | COC(=O)N1C(C(C(CC1)=O)C(=O)OCC)C | C11H17NO5
reactant | ethanedioic acid | C(C(=O)O)(=O)O | C2H2O4
solvent | water | O | H2O
product | methyl 2-methyl-4-oxo-1-piperidinecarboxylate | CC1N(CCC(C1)=O)C(=O)OC | C8H13NO3
